US04709095
To 40 ml of concentrated sulfuric acid with stirring under ice-cooling is added a mixture of 10 g of 4'-hydroxypropiophenone and 10 g of N-hydroxymethylchloroacetic amide in a small portion. After addition, the reaction mixture is further stirred under ice-cooling for 130 minutes. The resulting mixture is poured into ice-cold water containing sodium chloride and the solution is extracted with ethyl acetate. The ethyl acetate layer is washed with water and dried over sodium sulfate and then filtered. The filtrate is concentrated under reduced pressure and obtained white crystals are recrystallized from a mixture of hexane and ethanol to give 9.6 g of 3'-chloroacetamidomethyl-4'-hydroxypropiophenone as white crystals, melting at 143°-145° C.

reactant | 4'-hydroxypropiophenone | 10 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | N-hydroxymethylchloroacetic amide | 10 g | OCNC(CCl)=O | C3H6ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 3'-chloroacetamidomethyl-4'-hydroxypropiophenone | 9.6 g | ClCC(=O)NCC=1C=C(C=CC1O)C(CC)=O | C12H14ClNO3
